US09216972B2
To methyl 5-phenylisothiazole-3-carboxylate (500 mg, 2.280 mmol) in a tube were added iodine (579 mg, 2.280 mmol) and nitric acid (2.280 mmol). The resulting mixture was heated to 80° C. for 1 h. After the reaction was cooled to room temperature, EtOAc (50 mL) was added. The resulting mixture was washed with saturated Na2S2O3 solution until the brown color disappeared. The organic layer was concentrated. HPLC and flash chromatography yielded methyl 4-iodo-5-phenylisothiazole-3-carboxylate (168 mg, 0.487 mmol, 21.34% yield). The compound had an LC/MS M+1=345.9.

reactant | methyl 5-phenylisothiazole-3-carboxylate | 2.280 mmol, 500 mg | C1(=CC=CC=C1)C1=CC(=NS1)C(=O)OC | C11H9NO2S
reactant | iodine | 2.280 mmol, 579 mg | II | I2
reactant | nitric acid | 2.280 mmol | [N+](=O)(O)[O-] | HNO3
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | methyl 4-iodo-5-phenylisothiazole-3-carboxylate | 0.487 mmol, 168 mg, 21.34% yield | IC=1C(=NSC1C1=CC=CC=C1)C(=O)OC | C11H8INO2S
